US04795487
Sodium hydroxide solution (10%, 4 ml) was added to a solution of 3-hydroxy-2-propionyl-5-(3-cyanomethyl-2,4,6-trimethylphenyl)cyclohex-2-en-1-one (1.5 g, 4.6 mmol) in toluene (10 ml) and the mixture was refluxed for 2 h. After cooling the toluene was separated and the aqueous layer acidified and extracted with ethylacetate. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated. Chromatography on silica gel (elution with an increasing gradient of ethylacetate in methylene chloride) gave 3-hydroxy-2-propionyl-5-(3-carbamoylmethyl-2,4,6-trimethylphenyl)cyclohex-2-en-1-one as a pale solid (0.6 g, 40%). Proton magnetic resonance spectrum (CDCl3 ; 67 in ppm): 1.25 (3H,t,J6.5 Hz); 2.24 (3H,s); 2.28 (3H,s); 2.32 (3H,s); 2.2-4.2 (7H,m); 3.60 (2H,s); 5.3 (1H,brs); 6.0 (1H,brs); 6.85 (1H,s); 18.10 (1H,s). Infrared spectrum (CHCl3): ν max 1670 b cm-1. Also recovered from the chromatography was a sodium bicarbonate soluble fraction identified as 2-[3-(4-propionyl-5-hydroxycyclohex-3-one-4-enyl)-2,4,6-trimethylpheny]acetic acid (0.25 g, 17%) a colourless solid. Proton magnetic resonance spectrum (CDCl3 ; δ in ppm): 1.2 (3H, t,J6.5 Hz); 2.13 (3H,s); 2.2 (3H,s); 2.26 (3H, s); 2.3-4.1 (7H,m); 3.50; (2H,s); 6.75 (1H,s). Infrared spectrum: ν max (NUjol) 3300-2500 b, 1680-1630 b cm-1.

reactant | Sodium hydroxide | 4 ml | [OH-].[Na+]
reactant | 3-hydroxy-2-propionyl-5-(3-cyanomethyl-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | 4.6 mmol, 1.5 g | OC1=C(C(CC(C1)C1=C(C(=C(C=C1C)C)CC#N)C)=O)C(CC)=O | C20H23NO3
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3-hydroxy-2-propionyl-5-(3-carbamoylmethyl-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | 0.6 g, 40% | OC1=C(C(CC(C1)C1=C(C(=C(C=C1C)C)CC(N)=O)C)=O)C(CC)=O | C20H25NO4
